US07893086B2
To a stirred solution of methyl-4-bromo-1-methyl-1H-pyrrole-2-carboxylate (2.5 g, 11.5 mmol) in DMF (35 mL) under argon were added sequentially Pd(PPh3)4 (0.66 g, 0.58 mmol) and phenyl boronic acid (3.46 g, 28.4 mmol). The reaction mixture was heated to 70° C., and Na2CO3 (11 g, 104 mmol) dissolved in water (30 mL) was added. The reaction mixture was heated to 110° C. (14 h), cooled to room temperature, diluted with water (250 mL), and extracted with diethyl ether (250 mL×3). The combined organic layers were dried and concentrated in vacuo. The residue was purified by silica chromatography (eluted with petroleum ether:ethyl acetate=40:1) to afford methyl-1-methyl-4-phenyl-1H-pyrrole-2-carboxylate as a white crystalline solid (0.257 g). The ester (0.26 g, 1.2 mmol) was then combined with LiOH/H2O (0.15 g, 3.6 mmol) in THF (5 mL), CH3OH (5 mL) and H2O (2.5 mL) and was stirred at 40° C. (4 h). Water (25 mL) was added and the mixture was washed with DCM (15 mL). The pH of the aqueous phase was adjusted to 5-7 using HCl (1N). The water was removed and the residue was dissolved in MeOH (100 mL) and then filtered. The filtrate was concentrated in vacuo to give 1-methyl-4-phenyl-1H-pyrrole-2-carboxylic acid as white solid. (0.419 g) 1H-NMR (CDCl3, 400 MHz): δ 4.01 (s, 3H), 7.16 (d, J=1.6 Hz, 1H), 7.23 (t, J=7.2 Hz, 1H), 7.38 (m, 3H), 7.53 (dd, J=7.2, 8.4 Hz, 2H)

reactant | methyl-4-bromo-1-methyl-1H-pyrrole-2-carboxylate | 11.5 mmol, 2.5 g | COC(=O)C=1N(C=C(C1)Br)C | C7H8BrNO2
reactant | phenyl boronic acid | 28.4 mmol, 3.46 g | C1(=CC=CC=C1)B(O)O | C6H7BO2
reactant | Na2CO3 | 104 mmol, 11 g | C(=O)([O-])[O-].[Na+].[Na+]
solvent | DMF | 35 mL | CN(C)C=O | C3H7NO
solvent | water | 30 mL | O | H2O
solvent | water | 250 mL | O | H2O
catalyst | Pd(PPh3)4 | 0.58 mmol, 0.66 g | C=1C=CC(=CC1)[P](C=2C=CC=CC2)(C=3C=CC=CC3)[Pd]([P](C=4C=CC=CC4)(C=5C=CC=CC5)C=6C=CC=CC6)([P](C=7C=CC=CC7)(C=8C=CC=CC8)C=9C=CC=CC9)[P](C=1C=CC=CC1)(C=1C=CC=CC1)C=1C=CC=CC1
product | methyl-1-methyl-4-phenyl-1H-pyrrole-2-carboxylate | 0.257 g | COC(=O)C=1N(C=C(C1)C1=CC=CC=C1)C | C13H13NO2
